US06020496
In 30 ml of toluene was dissolved 4.78 g (20 mmol) of N-(3,4-dimethoxybenzyl)-glycine-methyl ester, and to the solution was added an aqueous solution containing 1.17 g (11 mmol) of anhydrous sodium carbonate dissolved in water. The mixture was cooled to 15° C. and 2.18 g (22 mmol) of a phosgene gas was blown under stirring to carry out the reaction. After completion of the phosgene blowing, the mixture was further stirred at room temperature for 2 hours. After completion of the reaction, the aqueous layer was separated from the resulting reaction mixture (1). The toluene layer was dried over anhydrous magnesium sulfate followed by filtration, and 2.02 g (20 mmol) of triethylamine was added to the filtrate and the mixture was reacted at 120° C. for 17 hours. After completion of the reaction, the resulting reaction mixture (2) was cooled to room temperature, and the precipitated triethylamine hydrochloride was removed by filtration. The filtrate was washed with 100 ml of water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The resulting concentrated residue was applied to silica gel column chromatography (eluent; hexane:ethyl acetate=4:1 (volume ratio)) to obtain 1.74 g (4.8 mmol) of 3-(3,4-dimethoxybenzyl)-5-methoxy-2(3H)oxazolone as white crystals. (Yield based on N-(3,4-dimethoxybenzyl)-glycine-methyl ester 32.8%)

reactant | N-(3,4-dimethoxybenzyl)-glycine-methyl ester | 20 mmol, 4.78 g | COC(CNCC1=CC(=C(C=C1)OC)OC)=O | C12H17NO4
reactant | sodium carbonate | 11 mmol, 1.17 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | phosgene | 22 mmol, 2.18 g | C(=O)(Cl)Cl | CCl2O
reactant | triethylamine | 20 mmol, 2.02 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 3-(3,4-dimethoxybenzyl)-5-methoxy-2(3H)oxazolone | 4.8 mmol, 1.74 g | COC=1C=C(CN2C(OC(=C2)OC)=O)C=CC1OC | C13H15NO5
